US06545003B1
2-Chlorobenzimidazole was treated with potassium carbonate and ethyl chloroacetate to yield 1-(ethoxycarbonylmethyl)-2-chlorobenzimidazole. This compound (1 eq.) was combined with L-4-(N,N-dimethylcarbamyloxy)phenylalanine ter-butyl ester (1.1 eq., prepared as described in Method L) and 2 drops of acetonitrile in a sealed tube and the reaction was heated for two days at 120° C. and the resultant mixture purified by column chromatography (1:3 ethyl acetate/hexanes) to yield the title compound.

reactant | 2-Chlorobenzimidazole | ClC=1NC2=C(N1)C=CC=C2 | C7H5ClN2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl chloroacetate | ClCC(=O)OCC | C4H7ClO2
product | 1-(ethoxycarbonylmethyl)-2-chlorobenzimidazole | C(C)OC(=O)CN1C(=NC2=C1C=CC=C2)Cl | C11H11ClN2O2
